US07713994B2
(4Z)-4-({[6-(4-Ethylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione
(4Z)-6-Iodo-4-{[(6-piperazin-1-ylpyridin-3-yl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (150 mg, 0.315 mmol) is dissolved in N-methylpyrrolidinone (3 mL) and methylene chloride (0.9 mL), followed by addition of sodium triacetoxyborohydride (0.77 mg, 3.63 mmol), acetaldehyde (0.46 mL, 8.14 mmol) and acetic acid (0.47 mL, 8.2 mmol). After stirring at room temperature for 1 h, methylene chloride and saturated sodium bicarbonate solution were added. The organic layer is separated and dried to give 110 mg (69%) of the title compound as a brown solid. MS (ESI) m/z 504.2 (M+H)+1

reactant | (4Z)-6-Iodo-4-{[(6-piperazin-1-ylpyridin-3-yl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.315 mmol, 150 mg | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC=1C=NC(=CC1)N1CCNCC1 | C19H18IN5O2
reactant | sodium triacetoxyborohydride | 3.63 mmol, 0.77 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 8.14 mmol, 0.46 mL | C(C)=O | C2H4O
reactant | acetic acid | 8.2 mmol, 0.47 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | methylene chloride | 0.9 mL | C(Cl)Cl | CH2Cl2
product | (4Z)-4-({[6-(4-Ethylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione | 110 mg, 69% | C(C)N1CCN(CC1)C1=CC=C(C=N1)N\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O | C21H22IN5O2
